US08497281B2
6-(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridine-1-carbonyl)-1,3-dihydro-indol-2-one
The title compound is prepared from 2-oxo-2,3-dihydro-1H-indole-6-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 34% of theory; LC (method 4): tR=1.88 min; Mass spectrum (ESI+): m/z=333 [M+H]+.

reactant | 2-oxo-2,3-dihydro-1H-indole-6-carboxylic acid | O=C1NC2=CC(=CC=C2C1)C(=O)O | C9H7NO3
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | 6-(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridine-1-carbonyl)-1,3-dihydro-indol-2-one | Yield: 34% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C2=CC=C1CC(NC1=C2)=O | C21H20N2O2
